US07199244B2
Step C—Preparation of N-[6-(1-aminomethyl-vinyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-2-[1-(3-trifluoromethyl-benzenesulfonyl)-pyrrolidin-2-yl]-acetamide
A solution of [2-(5-{2-[1-(3-trifluoromethyl-benzenesulfonyl)-pyrrolidin-2-yl]-acetylamino}-5,6,7,8-tetrahydro-naphthalen-2-yl)-allyl]-carbamic acid tert-butyl ester (72 mg, 0.12 mmol) in saturated HCl/EtOAc (3 mL) was stirred at RT for 45 min. The solvent was removed with a rotary evaporator. The crude was diluted with saturated NaHCO3 (60 mL) and extracted with CH2Cl2 (60 mL×3). The extract phase was washed with saturated NaCl, dried over Na2SO4, filtered and concentrated. Reverse phase liquid chromatography [25–100% CH3CN (0.1% TFA)-H2O (0.1% TFA)] afforded the title compound-containing fractional collections. CH3CN was removed from the combined fractional collections with a rotary evaporator. The aqueous phase was neutralized with saturated with NaHCO3 (40 mL), extracted with CH2Cl2 (40 mL×3). The extract phase was washed with saturated with NaCl, dried over Na2SO4, filtered and concentrated. The title compound was obtained as an off-white solid. MS (ESI, pos. ion) m/z: 522 (M+1).

reactant | [2-(5-{2-[1-(3-trifluoromethyl-benzenesulfonyl)-pyrrolidin-2-yl]-acetylamino}-5,6,7,8-tetrahydro-naphthalen-2-yl)-allyl]-carbamic acid tert-butyl ester | 0.12 mmol, 72 mg | C(C)(C)(C)OC(NCC(=C)C1=CC=2CCCC(C2C=C1)NC(CC1N(CCC1)S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)=O)=O | C31H38F3N3O5S
solvent | HCl EtOAc | 3 mL | Cl.CCOC(=O)C
product | N-[6-(1-aminomethyl-vinyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-2-[1-(3-trifluoromethyl-benzenesulfonyl)-pyrrolidin-2-yl]-acetamide | NCC(=C)C=1C=C2CCCC(C2=CC1)NC(CC1N(CCC1)S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)=O | C26H30F3N3O3S
